US07429608B2
5-(7-Bromo-5-(trifluoromethyl)-1H-benzo [d]imidazol-2-ylamino)naphthalen-2-ol.
The reaction of 7-bromo-2-chloro-5-(trifluoromethyl)-1H-benzo[d]imidazole (240 mg, 0.8 mmol, prepared according to the procedure described in WO 2004/035549 A1) with 5-amino-2-naphthol (64 mg, 0.4 mmol, TCI-US) under the condition of Example 2 afforded the title compound (57%) as an amorphous solid. MS (ESI, pos. ion) m/z: 423 (M+1).

reactant | 7-bromo-2-chloro-5-(trifluoromethyl)-1H-benzo[d]imidazole | BrC1=CC(=CC2=C1NC(=N2)Cl)C(F)(F)F | C8H3BrClF3N2
reactant | 5-amino-2-naphthol | 0.4 mmol, 64 mg | NC1=C2C=CC(=CC2=CC=C1)O | C10H9NO
product | 5-(7-Bromo-5-(trifluoromethyl)-1H-benzo [d]imidazol-2-ylamino)naphthalen-2-ol | 57% | BrC1=CC(=CC2=C1NC(=N2)NC2=C1C=CC(=CC1=CC=C2)O)C(F)(F)F | C18H11BrF3N3O
